data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(OC)c1OC)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(OC)c1OC)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(OC)c1OC)C(C)C", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1OC"}, {"reactants": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1OC", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1OC"}, {"reactants": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1OC.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1OC"}, {"reactants": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1OC", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1OC.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1ccc(Cl)cc1Cl)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(Cl)cc1Cl)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(Cl)cc1Cl)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1ccc(Cl)cc1Cl)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1ccc(Cl)cc1Cl)C2(C)C", "products": "C[C+]1C2(c3ccc(Cl)cc3Cl)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3ccc(Cl)cc3Cl)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2ccc(Cl)cc2Cl)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(Cl)cc2Cl)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(Cl)cc2Cl)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(Cl)cc2Cl)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2ccc(Cl)cc2Cl)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2ccc(Cl)cc2Cl)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3ccc(Cl)cc3Cl)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3ccc(Cl)cc3Cl)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3ccc(Cl)cc3Cl)C1(C)OC2=O.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1ccc(Br)c(N(C)C(=O)C2=CCCC2)c1.[Pd]", "products": "COc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1"}, {"reactants": "COc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1", "products": "COc1ccc2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1ccc2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1ccc2c(c1)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1cc(OC)c(NN=CCc2ccccc2)cc1F.Cl[Zn]Cl", "products": "COc1cc(OC)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1F"}, {"reactants": "COc1cc(OC)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1F", "products": "COc1cc(OC)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1F.[H+]"}, {"reactants": "COc1cc(OC)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1F", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(OC)ccc2F)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(OC)ccc2F)C(=N)C=C1", "products": "COc1cc(OC)c(F)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1N"}, {"reactants": "COc1cc(OC)c(F)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1N", "products": "COc1cc(OC)c2c(c1F)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc(OC)c2c(c1F)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc(OC)c2c(c1F)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc(OC)c2c(c1F)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc(OC)c2c(c1F)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(OC)c2c(c1F)C(c1ccccc1)C=[NH+]2", "products": "COc1cc(OC)c2[nH]cc(-c3ccccc3)c2c1F.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(F)CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(F)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(F)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(F)C1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(F)C1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(F)C1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c(C)c([Si](C)(C)C)c([Si](C)(C)C)c(OC)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)C)c([Si](C)(C)C)c(OC)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)C)c([Si](C)(C)C)c(OC)c1=C", "products": "COc1c2c(c(C)c([Si](C)(C)C)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)C)c2OC", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)C)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)C)c([Si](C)(C)C)cc1=C", "products": "COc1c2c(cc([Si](C)(C)C)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
